US07601722B2
In an analogous manner as described in general procedure V, 1-[2-(2-bromoethoxy)ethyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.07 g, 0.16 mmol) was treated with methylamine (10 mL) to provide 0.05 g (95%) of 2-{2-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}-N-methylethanamine. MS (ES) m/z 366.0; HRMS: calculated for C17H20FN3O3S+H+, 366.12822; found (ESI, [M+H]+), 366.1285; HPLC purity 100.0% at 210-370 nm, 8.4 minutes; Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/minutes 85/15-5/95 (Ammon. Bicarb Buff. pH=9.5/ACN+MeOH) for 10 minutes hold 4 minutes.

reactant | 1-[2-(2-bromoethoxy)ethyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.16 mmol, 0.07 g | BrCCOCCN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C16H16BrFN2O3S
reactant | methylamine | 10 mL | CN | CH5N
product | 2-{2-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}-N-methylethanamine | 0.05 g, 95% | FC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)CCOCCNC)(=O)=O | C17H20FN3O3S
